US05624961
Synthesis of N-(3-ethoxy-6-hydroxy-2,4,5-trimethylbenzyl)-2-(2-isopropyl-5-methylphenoxy)ethylamine
A solution of 3-ethoxy-6-hydroxy-2,4,5-trimethylbenzaldehyde (2.08 g) and 2-(2-isopropyl-5-methylphenoxy)ethylamine (1.93 g) in benzene (50 ml) was refluxed under heating for 6 hours in a Dean-Stark extractor. The solvent was distilled off under reduced pressure and the residue was suspended in ethanol (100 ml). Sodium borohydride (0.40 g) was added with ice-cooling and the mixture was stirred at room temperature for 16 hours. The solvent was distilled off under reduced pressure and water was added. The mixture was extracted with ethyl acetate and the obtained extract was purified by silica gel column chromatography (eluent; ethyl acetate/benzene=1/1) to give 3.06 g of a colorless solid. The solid was recrystallized from a mixed solvent of ethanol-methanol to give 1.99 g of the title compound (colorless needle crystals).

reactant | 3-ethoxy-6-hydroxy-2,4,5-trimethylbenzaldehyde | 2.08 g | C(C)OC=1C(=C(C=O)C(=C(C1C)C)O)C | C12H16O3
reactant | 2-(2-isopropyl-5-methylphenoxy)ethylamine | 1.93 g | C(C)(C)C1=C(OCCN)C=C(C=C1)C | C12H19NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-(3-ethoxy-6-hydroxy-2,4,5-trimethylbenzyl)-2-(2-isopropyl-5-methylphenoxy)ethylamine | 3.06 g | C(C)OC=1C(=C(CNCCOC2=C(C=CC(=C2)C)C(C)C)C(=C(C1C)C)O)C | C24H35NO3
